* LVS reference netlist for eeg_afe_top (KLayout sky130.lvs deck).
*
* Mirror of source/trials/20260902/xschem/eeg_afe_top.spice: XAFE
* (eeg_afe_pga, RST tied to VSS) + XADC (eeg_sdm1ct), PGA_OUTP/N directly
* coupled.  Child subckts are verbatim copies of pga_ref.spice /
* sdm_ref.spice (shared ones are textually identical between the two).
* ADC_OUTP/ADC_OUTN are internal nets (SDM integrator outputs, no top
* pin).  Deck conventions as in the block refs.


.subckt eeg_inv A Y VDD18 VSS
MMN Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMP Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
.ends eeg_inv

.subckt eeg_pseudo_res A B
MMP1 M M A A sky130_fd_pr__pfet_01v8 L=4u W=1u
MMP2 M M B B sky130_fd_pr__pfet_01v8 L=4u W=1u
.ends eeg_pseudo_res

.subckt eeg_tg_lowq A B EN ENB VDD18 VSS
MMN B EN A VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.84u
MMP B ENB A VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1.68u
MMND B ENB B VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.42u
MMPD B EN B VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=0.84u
MMNDA A ENB A VSS sky130_fd_pr__nfet_01v8 L=0.15u W=0.42u
MMPDA A EN A VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=0.84u
.ends eeg_tg_lowq

.subckt eeg_cmos_chopper_lowq INP INN OUTP OUTN PHI NPHI PHIB NPHIB VDD18 VSS
XSP INP OUTP PHI NPHI VDD18 VSS eeg_tg_lowq
XSN INN OUTN PHI NPHI VDD18 VSS eeg_tg_lowq
XCP INP OUTN PHIB NPHIB VDD18 VSS eeg_tg_lowq
XCN INN OUTP PHIB NPHIB VDD18 VSS eeg_tg_lowq
.ends eeg_cmos_chopper_lowq

.subckt eeg_cmfb_amp_dl2 VCM_SENSE VCM_REF VBN VBP VDD18 VSS
MM6 NLEFT VCM_SENSE NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM7 VBP VCM_REF NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM8 NLEFT NLEFT VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2u W=2u
MM9 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=4u
MM10 NTAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=12u
.ends eeg_cmfb_amp_dl2

.subckt eeg_cmfb_amp_dl2_s2 VCM_SENSE VCM_REF VBN VBP VDD18 VSS
MM6 NLEFT VCM_SENSE NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM7 VBP VCM_REF NTAIL VSS sky130_fd_pr__nfet_01v8 L=2u W=2u
MM8 NLEFT NLEFT VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=2u W=2u
MM9 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=0.5u
MM10 NTAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=12u
.ends eeg_cmfb_amp_dl2_s2

.subckt eeg_bias_gen VBN VBNF VBP VDD18 VSS
MMP1 VBN VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=10u
MMN1 VBN VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=10u
MMP2 VBP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=10u
MMN2 VBP VBN SNS2 VSS sky130_fd_pr__nfet_01v8 L=4u W=40u
RRSET SNS2 VSS VSS 25k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=8.62u
XRSTART VDD18 VBN eeg_pseudo_res
RRF VBN VBNF VSS 10Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=3450u
CCF VBNF VSS sky130_fd_pr__model__cap_mim C=1e-10 A=5e-8 P=1e-2
.ends eeg_bias_gen

.subckt eeg_fd_ota_core_soft INP INN VBP VBN OUTP OUTN VCM_SENSE VCM_REF VDD18 VSS
MM1 OUTP INP TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=240u
MM2 OUTN INN TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=240u
MMDP OUTP VSS TAIL VSS sky130_fd_pr__nfet_01v8 L=4u W=20u
MM3 OUTP VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=48u
MM4 OUTN VBP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=4u W=48u
MM5 TAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 L=4u W=96u
RRCM1 OUTP VCM_SENSE VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRCM2 OUTN VCM_SENSE VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRLOADP OUTP VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRLOADN OUTN VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
.ends eeg_fd_ota_core_soft

.subckt stage2 N2P N2N OUTP OUTN VBP2 VCM2 VCM_REF VDD18 VSS
MM21 OUTP N2P VSS VSS sky130_fd_pr__nfet_01v8 L=12u W=12u
MM22 OUTN N2N VSS VSS sky130_fd_pr__nfet_01v8 L=12u W=12u
MM23 OUTP VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12u W=48u
MM24 OUTN VBP2 VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=12u W=48u
RRCMO1 OUTP VCM2 VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRCMO2 OUTN VCM2 VSS 5Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=1725u
RRLOADO1 OUTP VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRLOADO2 OUTN VCM_REF VSS 2Meg sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=690u
RRZP N2P NZP VSS 20k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=6.9u
RRZN N2N NZN VSS 20k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=6.9u
CCP NZP OUTP sky130_fd_pr__model__cap_mim C=1e-11 A=5e-9 P=1.3e-3
CCN NZN OUTN sky130_fd_pr__model__cap_mim C=1e-11 A=5e-9 P=1.3e-3
.ends stage2

.subckt eeg_fd_ota_chopped_full2 INP INN VCM_REF OUTP OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM VDD18 VSS
XBG VBNRAW VBN VBP_BIAS VDD18 VSS eeg_bias_gen
XCHIN INP INN INP_M INN_M PHII NPHII PHIBI NPHIBI VDD18 VSS eeg_cmos_chopper_lowq
XSTG1 INP_M INN_M VBP1 VBN N1P N1N VCM1 VCM_REF VDD18 VSS eeg_fd_ota_core_soft
XCM1 VCM1 VCM_REF VBN VBP1 VDD18 VSS eeg_cmfb_amp_dl2
XCHMID N1P N1N N2P N2N PHIM NPHIM PHIBM NPHIBM VDD18 VSS eeg_cmos_chopper_lowq
XCM2 VCM2 VCM_REF VBN VBP2 VDD18 VSS eeg_cmfb_amp_dl2_s2
XS2 N2P N2N OUTP OUTN VBP2 VCM2 VCM_REF VDD18 VSS stage2
.ends eeg_fd_ota_chopped_full2

.subckt eeg_afe_pga ELP ELN VCM_REF OUTP OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM S8 S16 S32 S64 RST VDD18 VSS
CCINP ELP INP sky130_fd_pr__model__cap_mim C=32e-12 A=1.6e-8 P=3.2e-3
CCINN ELN INN sky130_fd_pr__model__cap_mim C=32e-12 A=1.6e-8 P=3.2e-3
CCF64P OUTN INP sky130_fd_pr__model__cap_mim C=0.5e-12 A=2.5e-10 P=6.5e-5
CCF64N OUTP INN sky130_fd_pr__model__cap_mim C=0.5e-12 A=2.5e-10 P=6.5e-5
CCFB32P OUTN F32P sky130_fd_pr__model__cap_mim C=0.5e-12 A=2.5e-10 P=6.5e-5
CCFB32N OUTP F32N sky130_fd_pr__model__cap_mim C=0.5e-12 A=2.5e-10 P=6.5e-5
CCFB16P OUTN F16P sky130_fd_pr__model__cap_mim C=1.5e-12 A=7.5e-10 P=1.95e-4
CCFB16N OUTP F16N sky130_fd_pr__model__cap_mim C=1.5e-12 A=7.5e-10 P=1.95e-4
CCFB8P OUTN F8P sky130_fd_pr__model__cap_mim C=3.5e-12 A=1.75e-9 P=4.55e-4
CCFB8N OUTP F8N sky130_fd_pr__model__cap_mim C=3.5e-12 A=1.75e-9 P=4.55e-4
XS32P F32P INP S32 NS32 VDD18 VSS eeg_tg_lowq
XS32N F32N INN S32 NS32 VDD18 VSS eeg_tg_lowq
XS16P F16P INP S16 NS16 VDD18 VSS eeg_tg_lowq
XS16N F16N INN S16 NS16 VDD18 VSS eeg_tg_lowq
XS8P F8P INP S8 NS8 VDD18 VSS eeg_tg_lowq
XS8N F8N INN S8 NS8 VDD18 VSS eeg_tg_lowq
XINS8 S8 NS8 VDD18 VSS eeg_inv
XINS16 S16 NS16 VDD18 VSS eeg_inv
XINS32 S32 NS32 VDD18 VSS eeg_inv
XINRST RST NRST VDD18 VSS eeg_inv
XPRP INP VCM_REF eeg_pseudo_res
XPRN INN VCM_REF eeg_pseudo_res
XRSTP INP VCM_REF RST NRST VDD18 VSS eeg_tg_lowq
XRSTN INN VCM_REF RST NRST VDD18 VSS eeg_tg_lowq
XAFE INP INN VCM_REF OUTP OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM VDD18 VSS eeg_fd_ota_chopped_full2
.ends eeg_afe_pga

.subckt eeg_nand2 A B Y VDD18 VSS
MMN1 Y A N1 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMN2 N1 B VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MMP1 Y A VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MMP2 Y B VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
.ends eeg_nand2

.subckt eeg_strongarm INP INN OUTP OUTN CLK VDD18 VSS
MM0 NTAIL CLK VSS VSS sky130_fd_pr__nfet_01v8 L=0.15u W=8u
MM1 D1 INP NTAIL VSS sky130_fd_pr__nfet_01v8 L=0.5u W=4u
MM2 D2 INN NTAIL VSS sky130_fd_pr__nfet_01v8 L=0.5u W=4u
MM3 OUTN OUTP D1 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MM4 OUTP OUTN D2 VSS sky130_fd_pr__nfet_01v8 L=0.15u W=1u
MM5 OUTP OUTN VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM6 OUTN OUTP VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM7 OUTP CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MM8 OUTN CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=2u
MM9 D1 CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
MM10 D2 CLK VDD18 VDD18 sky130_fd_pr__pfet_01v8 L=0.15u W=1u
.ends eeg_strongarm

.subckt eeg_fd_ota_full2_nc INP INN VCM_REF OUTP OUTN VDD18 VSS
XBG VBNRAW VBN VBP_BIAS VDD18 VSS eeg_bias_gen
XSTG1 INP INN VBP1 VBN N1P N1N VCM1 VCM_REF VDD18 VSS eeg_fd_ota_core_soft
XCM1 VCM1 VCM_REF VBN VBP1 VDD18 VSS eeg_cmfb_amp_dl2
XCM2 VCM2 VCM_REF VBN VBP2 VDD18 VSS eeg_cmfb_amp_dl2_s2
XS2 N1P N1N OUTP OUTN VBP2 VCM2 VCM_REF VDD18 VSS stage2
.ends eeg_fd_ota_full2_nc

.subckt eeg_sdm1ct VINP VINN VCM_REF VP VN BIT NBIT OINTP OINTN CLK NCLK VDD18 VSS
* CT integrator
RRINP VINP INP VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
RRINN VINN INN VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
XOTA INP INN VCM_REF OINTP OINTN VDD18 VSS eeg_fd_ota_full2_nc
CCIP OINTN INP sky130_fd_pr__model__cap_mim C=2e-11 A=1e-8 P=2e-3
XRFP OINTN INP eeg_pseudo_res
CCIN OINTP INN sky130_fd_pr__model__cap_mim C=2e-11 A=1e-8 P=2e-3
XRFN OINTP INN eeg_pseudo_res
* NRZ DAC (BIT1=NBIT0=BIT wires; NBIT1=BIT0=BITB via XINV)
XREFP1 VDACP VP BIT BITB VDD18 VSS eeg_tg_lowq
XREFP0 VDACP VN BITB BIT VDD18 VSS eeg_tg_lowq
XREFN1 VDACN VN BIT BITB VDD18 VSS eeg_tg_lowq
XREFN0 VDACN VP BITB BIT VDD18 VSS eeg_tg_lowq
RRDACP INP VDACP VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
RRDACN INN VDACN VSS 500k sky130_fd_pr__res_xhigh_po_0p69 W=0.69u L=172.5u
XINV BIT BITB VDD18 VSS eeg_inv
* quantizer + hold caps + SR latch
XCMP OINTP OINTN QP QN CLK VDD18 VSS eeg_strongarm
CCQP QP VSS sky130_fd_pr__model__cap_mim C=1e-12 A=5e-10 P=1.3e-4
CCQN QN VSS sky130_fd_pr__model__cap_mim C=1e-12 A=5e-10 P=1.3e-4
XND1 QP NBIT BIT VDD18 VSS eeg_nand2
XND2 QN BIT NBIT VDD18 VSS eeg_nand2
.ends eeg_sdm1ct

.subckt eeg_afe_top ELP ELN VCM_REF VP VN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM CLK16 NCLK16 BIT NBIT S8 S16 S32 S64 VDD18 VSS
* front-end chopped PGA (RST tied to VSS at top level)
XAFE ELP ELN VCM_REF PGA_OUTP PGA_OUTN PHII NPHII PHIBI NPHIBI PHIM NPHIM PHIBM NPHIBM S8 S16 S32 S64 VSS VDD18 VSS eeg_afe_pga
* ADC (CT 1st-order SDM), directly coupled from the PGA output
XADC PGA_OUTP PGA_OUTN VCM_REF VP VN BIT NBIT ADC_OUTP ADC_OUTN CLK16 NCLK16 VDD18 VSS eeg_sdm1ct
.ends eeg_afe_top
